US05545747
A reaction vessel was charged with 19.4 g of 2-fluoro-4-bromophenol, 16.8 g of hexyl bromide, 23.3 g of potassium carbonate and 510 ml of cyclohexanone and the reaction was effected with stirring at 120°-140° C. for 7 hours. The reaction liquid was poured into dilute hydrochloric acid and the mixture was extracted with benzene. The benzene layer was washed with water and dried over Glauber's salt, and the benzene was distilled off. The residue was purified by way of column chromatography on silica gel (eluent: hexane) to obtain 23.4 g (yield 83.6%) of 3-fluoro-4-hexyloxybromobenzene.

reactant | 2-fluoro-4-bromophenol | 19.4 g | FC1=C(C=CC(=C1)Br)O | C6H4BrFO
reactant | hexyl bromide | 16.8 g | C(CCCCC)Br | C6H13Br
reactant | potassium carbonate | 23.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | cyclohexanone | 510 ml | C1(CCCCC1)=O | C6H10O
product | 3-fluoro-4-hexyloxybromobenzene | 23.4 g, yield 83.6% | FC=1C=C(C=CC1OCCCCCC)Br | C12H16BrFO
